US09108969B2
Step B: Preparation of tert-Butyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
To a solution of tert-butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (50.0 mg, 0.078 mmol) in THF (1 mL) in a heavy-walled sealed microwave tube (0.5-2.0 mL) under N2 was added methylzinc(II) chloride (2.0 M in THF, 0.055 mL, 0.109 mmol) and bis(tri-t-butylphosphine)palladium(0) (3.60 mg, 7.04 μmol). The reaction mixture was then heated to 70° C. for 2 h, quenched with saturated NaHCO3 and filtered by vacuum filtration through a pad of Celite®. The pad of Celite® was washed with EtOAc (2×5 mL). The filtrate was extracted with EtOAc (3×5 mL). The organic layers were combined and washed with saturated NaCl (1×10 mL), dried over MgSO4 and filtered by vacuum filtration. The filtrate was concentrated under reduced pressure. The residue was purified by preparative TLC to give the title compound as a colorless oil (21.1 mg). LCMS m/z=528.3 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.45 (s, 9H), 1.56-1.66 (m, 2H), 1.68-1.79 (m, 2H), 1.81-1.92 (m, 2H), 2.04-2.15 (m, 2H), 2.23 (s, 3H), 2.26-2.36 (m, 1H), 2.41 (dd, J=15.66, 10.11 Hz, 1H), 2.78-2.90 (m, 2H), 3.31-3.44 (m, 1H), 3.65-3.74 (m, 1H), 3.90-3.98 (m, 1H), 3.99-4.12 (m, 1H), 5.09 (s, 2H), 6.85 (dd, J=8.72, 2.40 Hz, 1H), 7.03 (d, J=2.15 Hz, 1H), 7.09 (d, J=8.72 Hz, 1H), 7.47 (d, J=8.08 Hz, 1H), 7.60 (d, J=8.21 Hz, 1H), 7.71 (d, J=1.39 Hz, 1H).

reactant | tert-butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.078 mmol, 50.0 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)I)C=C1)C(F)(F)F | C30H33F3INO3
reactant | methylzinc(II) chloride | 0.109 mmol, 2.0 M, 0.055 mL | [Cl-].C[Zn+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-t-butylphosphine)palladium(0) | 7.04 μmol, 3.60 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-Butyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 21.1 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C)C=C1)C(F)(F)F | C31H36F3NO3
